US08076336B2
1-[3-(3,3-Dimethylbutoxy)-5-methoxyphenyl]ethanone
1-(3-Hydroxy-5-methoxyphenyl)ethanone (O3.033; 1.12 g) and 1-iodo-3,3-dimethylbutane (1.57 g) were dissolved in DMF, and sodium hydride (194 mg) was added. After stirring at RT for 2 h, the DMF was drawn off. The residue was taken up in EA, washed with water, dried, filtered and concentrated. The residue was purified using silica gel (40 g cartridge, n-heptane/EA 0-50% within 30 min). 850 mg of the title compound were obtained.

reactant | 1-(3-Hydroxy-5-methoxyphenyl)ethanone | 1.12 g | OC=1C=C(C=C(C1)OC)C(C)=O | C9H10O3
reactant | 1-iodo-3,3-dimethylbutane | 1.57 g | ICCC(C)(C)C | C6H13I
reactant | sodium hydride | 194 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-[3-(3,3-Dimethylbutoxy)-5-methoxyphenyl]ethanone | 850 mg | CC(CCOC=1C=C(C=C(C1)OC)C(C)=O)(C)C | C15H22O3
